US08258175B2
3-Allyloxy-4-methoxybenzyl Alcohol
A mixture of 3-hydroxy-4-methoxybenzylalcohol (0.80 g, 7.79 mmol.), allyl bromide (0.45 ml, 5.9 mmol.), acetonitrile (20 ml), and potassium carbonate (1.08 g, 7.8 mmol.) was reluxed for 18 hours, then concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with water and brine. The organic layer was dried (MgSO4) and evaporated to give the product as a yellow oil (1.14 g, 57%). 1H NMR (300 MHz, CDCl3) δ 1.90 (s, 1H), 3.79 (s, 3H), 4.52-4.54 (m, 4H), 5.2 (d, 1H, J=12 Hz), 5.32 (d, 1H, J=17.25 Hz), 6.0 (m, 1H), 6.77 (s, 2H), 6.85 (s, 1H); 13C NMR (75 MHz, CDCl3) δ 56.3, 65.6, 70.3, 111.2, 113.6, 118.4, 119.7, 133.7, 134.4, 147.8, 149.9.

reactant | 3-hydroxy-4-methoxybenzylalcohol | 7.79 mmol, 0.80 g | OC=1C=C(CO)C=CC1OC | C8H10O3
reactant | allyl bromide | 5.9 mmol, 0.45 ml | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 7.8 mmol, 1.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-Allyloxy-4-methoxybenzyl Alcohol | 1.14 g, 57% | C(C=C)OC=1C=C(CO)C=CC1OC | C11H14O3
